US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(methyl-propionyl-amino)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N-(5-amino-pyridin-2-yl)-N-methyl-propionamide. LCMS calcd for C20H17F3N4O3 (m/e) 418, obsd 419 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N-(5-amino-pyridin-2-yl)-N-methyl-propionamide | NC=1C=CC(=NC1)N(C(CC)=O)C | C9H13N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(methyl-propionyl-amino)-pyridin-3-yl]-amide | CN(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C(CC)=O | C20H17F3N4O3
